US04772600
2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A suspension of N-[3-[(5-methyl-2-thienylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester (93.8 g, 0.293 mole) was refluxed in ethylene glycol (500 ml) for 45 minutes. The solution was cooled and water (200 ml) and solid potassium hydroxide pellets (23.25 g, 0.41 mole) were added. The resulting solution was refluxed for one hour and then filtered hot into ice water (2 liters) and acidified with 3N hydrochloric acid to give a solid which was collected by filtration and dried to give 52.3 g of crude title compound (65% yield). A 2.0-g portion was dissolved in hot methanol, treated with charcoal, filtered while hot, and cooled to room temperature. Addition of water caused a precipitate to form which was collected by filtration and dried under high vacuum at room temperature overnight to give 0.68 g of title compound, mp >250° C.

reactant | N-[3-[(5-methyl-2-thienylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 0.293 mole, 93.8 g | C(C)OC(CNC1=NC=CC=C1NC(=O)C=1SC(=CC1)C)=O | C15H17N3O3S
reactant | water | 200 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | charcoal | C | CH4
solvent | ethylene glycol | 500 ml | C(CO)O | C2H6O2
solvent | methanol | CO | CH4O
product | 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.68 g | CC1=CC=C(S1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H11N3O2S
